US05631373
7-Chloro-1,4-dihydro-6-ethylthio-5-nitroquinoxaline-2,3-dione.
A solution of 7-Chloro-1,4-dihydro-6-fluoro-5-nitroquinoxaline-2,3-dione (0.100 g, 0.385 mmol) and ethanethiol, sodium salt (0.130 g, 1.55 mmol) in DMSO (1.0 mL) was stirred at room temperature for 24 h. The resulting solution was diluted with water (5 mL) and acidified with concd HCl (4-5 drops) to pH ~5. The precipitated solid was collected by filtration under vacuum, washed with water (10 mL), and dried under vacuum to obtain 0.098 g (84%) pure (HPLC) title compound as a yellow powder; mp darkens at 323° C.; 1H NMR (DMSO-d6) δ1.04 (t, 3H, J=7.2 Hz), 2.82 (q, 2H, J=7.5 Hz), 7.34 (s, 1H), 12.20 (s, 1H), 12.25 (s, 1H).

reactant | 7-Chloro-1,4-dihydro-6-fluoro-5-nitroquinoxaline-2,3-dione | 0.385 mmol, 0.100 g | ClC1=C(C(=C2NC(C(NC2=C1)=O)=O)[N+](=O)[O-])F | C8H3ClFN3O4
reactant | ethanethiol | C(C)S | C2H6S
reactant | sodium | 1.55 mmol, 0.130 g | [Na] | Na
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
solvent | water | 5 mL | O | H2O
catalyst | HCl | 4-5 drops | Cl | ClH
product | 7-Chloro-1,4-dihydro-6-ethylthio-5-nitroquinoxaline-2,3-dione | ClC1=C(C(=C2NC(C(NC2=C1)=O)=O)[N+](=O)[O-])SCC | C10H8ClN3O4S
